US08217064B2
A mixture of ethyl 2-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)-4-methylpentanoate (800 mg, mmol) and lithium hydroxide monohydrate (27 mg, 0.642 mmol) in a MeOH/THF/Water solvent mixture (5 ml/5 ml5/ml) was stirred for 3 h at room temperature. Upon completion of the reaction, the volatiles were removed under reduced pressure. The residue was diluted with water, acidified with 5% HCl solution and extracted with ethyl acetate (3×50 mL). The combined organic layers were washed with water, dried over Na2SO4, filtered and evaporated under reduced pressure. The residue was purified by Flash Column Chromatography to give 2-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)-4-methylpentanoic acid in 88% yield (670 mg).

reactant | ethyl 2-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)-4-methylpentanoate | 800 mg | ClC=1C=C(C=C(C1OCC(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)C(C(=O)OCC)CC(C)C | C23H23ClF6O3
reactant | lithium hydroxide monohydrate | 0.642 mmol, 27 mg | O.[OH-].[Li+]
solvent | MeOH THF Water | CO.C1CCOC1.O
product | 2-(5-chloro-6-(2,2,2-trifluoroethoxy)-4′-(trifluoromethyl)biphenyl-3-yl)-4-methylpentanoic acid | 88% yield | ClC=1C=C(C=C(C1OCC(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)C(C(=O)O)CC(C)C | C21H19ClF6O3
